US06897207B2
4-Pyrazinyl-1-butene
A solution of lithium diisopropylamine[prepared from a solution of butyl lithium in hexanes (100 mL, 2.5M) and diisopropylamine (25.3 g) at −35° C.] was treated with a solution of 2-methylpyrazine (23.5 g) in dry tetrahydrofuran (300 mL) at −20° C. The mixture was stirred at −20° C. for 1 hour then cooled to −78° C. and treated with a solution of allyl bromide (30.8 g) in dry tetrahydrofuran (300 mL). This mixture was warmed to room temperature and stirred at this temperature for 2 hours then left overnight and then treated with saturated ammonium chloride solution (50 mL) followed by water (200 mL). The mixture was then extracted twice with ether (200 mL). The combined extracts were dried over magnesium sulfate then evaporated. The residue was distilled to give the title compound (22 g) as a colourless oil, b.p. 70° C./1 mm Hg.

reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 25.3 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-methylpyrazine | 23.5 g | CC1=NC=CN=C1 | C5H6N2
reactant | allyl bromide | 30.8 g | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 4-Pyrazinyl-1-butene | 22 g | N1=C(C=NC=C1)CCC=C | C8H10N2
